US05641886
309 mg of (2S,3S)3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)2-hydroxy-4-phenylbutyraldehyde and 238 mg of N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide are dissolved in 5 ml of acetic acid and treated portionwise with 120 mg of sodium cyanoborohydride. After completion of the reaction the mixture is concentrated to dryness, treated with 10 ml of water and extracted with methylene chloride. The extracts are dried and filtered, the filtrate is concentrated and the residue is purified on silica gel with methylene chloride/methanol (95:5). N-tert.Butyl-decahydro-2-[2(R)-hydroxy-4-phenyl-3(S)-phthalimidobutyl]-(4aS,8aS)-isoquinoline-3(S)-carboxamide is obtained.

reactant | (2S,3S)3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)2-hydroxy-4-phenylbutyraldehyde | 309 mg | O=C1N(C(C2=CC=CC=C12)=O)[C@H]([C@@H](C=O)O)CC1=CC=CC=C1 | C18H15NO4
reactant | N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide | 238 mg | C(C)(C)(C)NC(=O)[C@H]1NC[C@H]2CCCC[C@H]2C1 | C14H26N2O
reactant | sodium cyanoborohydride | 120 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-tert.Butyl-decahydro-2-[2(R)-hydroxy-4-phenyl-3(S)-phthalimidobutyl]-(4aS,8aS)-isoquinoline-3(S)-carboxamide | C(C)(C)(C)NC(=O)[C@H]1N(C[C@H]2CCCC[C@H]2C1)C[C@H]([C@H](CC1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O)O | C32H41N3O4
